US07138425B2
c) 2-[4-Methoxy-5-[5-(3-methoxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(3-methoxyphenyl)benzoxazole (50 mg, 0.14 mmol) and 1,2,4-benzenetricarboxylic anhydride (28 mg, 0.14 mmol) the title compound was obtained (52 mg, 71%). 1H NMR (DMSO) δ 8.43(d, 1H), 8.33(s, 1H), 8.22(d, 1H), 8.10(m, 2H), 7.87(d, 1H), 7.74(m, 2H), 7.48(d, 1H), 7.41(t, 1H), 7.30(m, 2H), 6.96(dd, 1H), 4.04(s, 3H), 3.85(s, 3H). MS 521.3 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(3-methoxyphenyl)benzoxazole | 0.14 mmol, 50 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)OC | C21H18N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.14 mmol, 28 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(3-methoxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)OC)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C30H20N2O7
